US06723720B2
5 g of 2,6-difluoroacetophenone are placed in 13.6 ml of DMSO, and 2.7 ml of bromine (8.8M in water) are added dropwise, the reaction temperature rising from room temperature to 40° C. When the addition of bromine is complete, the mixture is heated at 80° C. for 30 min. After cooling to room temperature, the reaction mixture is poured into 100 ml of dichloromethane; with stirring, sodium sulfate and solid sodium hydrogen carbonate are added to the solution, filtration is carried out and the reaction mixture is concentrated using a rotary evaporator. The crude product is subjected to flash chromatography with dichloromethane. In this way (2,6-difluorophenyl)-oxoacetaldehyde is obtained in the form of a colourless viscous oil.

reactant | 2,6-difluoroacetophenone | 5 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | bromine | 8.8M, 2.7 ml | BrBr | Br2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMSO | 13.6 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2,6-difluorophenyl)-oxoacetaldehyde | FC1=C(C(=CC=C1)F)C(C=O)=O | C8H4F2O2
